US06800654B2
{[6-(3-Pentyl-1-[2-(trifluoromethyl)benzyl]-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile
The title compound was prepared as a solid (0.147 g, 34%) from {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile using 2-trifluoromethyl benzyl bromide and the procedure from step 4 of Example 2; 1H NMR (DMSO-d6) δ 0.72 (t, J=7.8 Hz, 3H), 1.08-1.29 (m, 4H), 1.51-1.67 (m, 2H), 2.71 (t, J=8.6 Hz, 2H), 5.29 (s, 2H), 5.47 (s, 2H), 6.37 (d, J=8.6 Hz, 1H), 7.08-7.21 (m, 2H), 7.23-7.32 (m, 2H), 7.35-7.45 (m, 2H), 7.48 (t, J=7.8 Hz, 1H), 7.53 (d, J=1.7 Hz, 1H), 7.63-7.75 (m, 2H), 7.83-7.92 (m, 3H); mass spectrum [(+) ESI], m/z 527 (M+H)+.

reactant | {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | C(CCCC)C1=C(NC2=CC=CC=C12)C=1C=C2C=CC(=CC2=CC1)OCC#N | C25H24N2O
reactant | 2-trifluoromethyl benzyl bromide | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | {[6-(3-Pentyl-1-[2-(trifluoromethyl)benzyl]-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | C(CCCC)C1=C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)C(F)(F)F)C=1C=C2C=CC(=CC2=CC1)OCC#N | C33H29F3N2O
